US08097759B2
A mixture of 5-bromosalicylaldehyde (1.01 g, 5 mmol), 3,5-dichloroaniline (810 mg, 5 mmol) and ethanol (25 mL) was refluxed for 1 hour under argon atmosphere. After the reaction mixture was cooled to room temperature, the separated crystal was filtered to give 3,5-dichloro-N-(5-bromo-2-hydroxybenzylidene)aniline (1.52 g, 88.2%) as an orange crystal.

reactant | 5-bromosalicylaldehyde | 5 mmol, 1.01 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | 3,5-dichloroaniline | 5 mmol, 810 mg | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 3,5-dichloro-N-(5-bromo-2-hydroxybenzylidene)aniline | 1.52 g, 88.2% | ClC=1C=C(N=CC2=C(C=CC(=C2)Br)O)C=C(C1)Cl | C13H8BrCl2NO
